US08242281B2
2-Amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-[(3-pyridinylmethyl)amino]-3,5-pyridinedicarbonitrile
100 mg (0.26 mmol) of 2-amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-(phenyl-sulfanyl)-3,5-pyridinedicarbonitrile and 56 mg (0.52 mmol) of 3-picolylamine in 8 ml of DMF are heated at 100° C. After 3 hours, another 224 mg (2.08 mmol) of 3-picolylamine are added, and the mixture is heated at 100° C. for another 4 hours. After dilution with water, the mixture is extracted three times with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The concentration residue is purified by preparative HPLC on reversed-phase silica gel.

reactant | 2-amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-(phenyl-sulfanyl)-3,5-pyridinedicarbonitrile | 0.26 mmol, 100 mg | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCCO2)C=C1)C#N)SC1=CC=CC=C1 | C21H14N4O2S
reactant | 3-picolylamine | 0.52 mmol, 56 mg | N1=CC(=CC=C1)CN | C6H8N2
reactant | 3-picolylamine | 2.08 mmol, 224 mg | N1=CC(=CC=C1)CN | C6H8N2
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-6-[(3-pyridinylmethyl)amino]-3,5-pyridinedicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCCO2)C=C1)C#N)NCC=1C=NC=CC1 | C21H16N6O2
